US05024785
A diglycidyl ether of bisphenol A (500.0 grams, 2.749 epoxide equivalents) having an epoxide equivalent weight of 181.895, methacrylic acid (229.31 grams, 2.67 moles) and hydroquinone (0.292 gram, 400 ppm based on epoxide functional reactant and methacrylic acid) are added to a reactor and heated to 90° C. with stirring and sparging with air (0.5 liter per minute). Twenty six minutes later, the 90° C. reaction temperature is achieved and 33.33% aqueous chromium trichloride catalyst (0.625 gram, 0.125% wt. based on epoxide functional reactant) is added to the reactor and the temperature controller set at 110° C. and this temperature is achieved eleven minutes later. After five minutes the temperature controller is set at 115° C. and this temperature is achieved five minutes later. After 330 minutes at the 115° C. reaction temperature, titration of samples of the vinyl ester demonstrates the presence of 0.21 percent epoxide and 0.36 percent acid. Ten minutes later, cooling of the reactor to 80° C. commenced and this temperature is achieved eleven minutes later. Phenothiazine (0.145 gram, 200 ppm based on vinyl ester) is added to the reactor followed 5 minutes later by styrene inhibited with 50 ppm of t-butylcatechol (310.23 grams, 30.0% wt. of the vinyl ester after correction for sample weight removed for titration). The product is filtered through a coarse fritted glass funnel and recovered as a light green colored styrenated vinyl ester resin containing 70.0% wt. dimethacrylate of bisphenol A diglycidyl ether and 30.0% wt. styrene. A 400.0 gram aliquot of the styrenated vinyl ester resin is further diluted with styrene (109.0 grams) to provide dimethacrylate of bisphenol A containing 45.0% styrene. Gel permeation chromatographic analysis of a portion of the non-styrenated vinyl ester using polystyrenes as calibration standards revealed a single product peak with the following profile: z-average molecular weight/polydispersity ration=843/1.16, weight average molecular weight/polydispersity ratio=725/1.29, number average molecular weight/polydispersity ratio=656/1.11.

reactant | diglycidyl ether of bisphenol A | 500.0 grams | CC(C)(C1=CC=C(C=C1)OCC2CO2)C3=CC=C(C=C3)OCC4CO4 | C21H24O4
reactant | methacrylic acid | 2.67 moles, 229.31 grams | C(C(=C)C)(=O)O | C4H6O2
reactant | hydroquinone | 0.292 gram | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | Phenothiazine | 0.145 gram | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | t-butylcatechol | C(C)(C)(C)C1=C(C(O)=CC=C1)O | C10H14O2
product | bisphenol A | 45.0% | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
